US04508717
The syn isomer of 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid (12.4 g) and 4-N,N-dimethylaminopyridine (0.05 g) are added to a solution of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide (15 g) in dry methylene chloride (100 cc), and a solution of N,N'-dicyclohexylcarbodiimide (6.93 g) in methylene chloride (120 cc) is then added (in the course of 30 minutes) after cooling to +5° C. The reaction mixture is then stirred for 1 hour at +5° C. and then for 4 hours at 25° C., after which it is partially concentrated, diluted again with ethyl acetate (500 cc) and filtered. The filtrate is poured into a mixture of distilled water (1 liter), ethyl acetate (1 liter) and acetic acid (10 cc). The organic phase is washed with a saturated solution of sodium bicarbonate (200 cc), distilled water (3×200 cc) and then a saturated solution of sodium chloride (200 cc), dried over sodium sulphate and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give the crude expected product (26.8 g) in the form of a hard brown foam, which can be purified in the following manner: the crude product (5 g) is redissolved in ethanol (120 cc) under reflux, decolorising charcoal (0.5 g) and silica (0.5 g) are added, the mixture is stirred and filtered and the filtrate is cooled in a bath of iced water. The precipitate is filtered off and washed with ethanol (2×10 cc) and then ether (2×20 cc) to give 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia1-azabicyclo[4.2.0]oct-2-ene 5-oxide (2 g) in the form of an ochre powder.

reactant | 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid | 12.4 g | CON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3S
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide | 15 g | NC1C2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)C1=CC=NC=C1)=O | C28H22N4O4S2
reactant | N,N'-dicyclohexylcarbodiimide | 6.93 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia1-azabicyclo[4.2.0]oct-2-ene 5-oxide | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C1=CN=C(S1)C1=CC=NC=C1)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H41N7O6S3
